US05519029
A solution of cerium ammonium nitrate (CAN; 13.70 g) in water (50 mL) is added during twenty minutes to a stirred suspension of 9-fluoro-10-hydroxy-6-methoxybenzo[g]isoquinoline (1.22 g) in acetonitrile (150 mL). At the end of the addition the obtained suspension is heated at 60° C. for two hours to give a clear, dark solution which is cooled to room temperature and diluted with water (100 mL). Following removal of acetonitrile by distillation at reduced pressure the aqueous phase is saturated with sodium chloride and extracted with methylene chloride (3×150 mL). The combined organic solutions are dried over anhydrous sodium sulphate and the solvent is removed at reduced pressure. The obtained residue is purified by silica-gel column chromatography (eluant: methylene chloride/ethyl acetate from 85/15 to 75/25 v/v) to give 9-fluoro-6-methoxybenzo[g]isoquinoline5,10-dione as a brown-yellow solid (0.48 g).

reactant | cerium ammonium nitrate | 13.70 g | [N+](=O)([O-])[O-].[NH4+].[Ce]
reactant | 9-fluoro-10-hydroxy-6-methoxybenzo[g]isoquinoline | 1.22 g | FC1=CC=C(C=2C=C3C=CN=CC3=C(C21)O)OC | C14H10FNO2
solvent | water | 50 mL | O | H2O
solvent | acetonitrile | 150 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
product | 9-fluoro-6-methoxybenzo[g]isoquinoline5,10-dione | 0.48 g | FC1=CC=C(C=2C(C=3C=CN=CC3C(C21)=O)=O)OC | C14H8FNO3
